* D:\Code\transistor_analysis\code\mosfet.asc
* Generated by LTspice 24.1.10 for Windows.
M1 N001 N002 0 0 Si7336ADP
V_GS N002 0 {VGS}
V_DS N001 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\risha\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V_DS 0 10 0.05
.step param VGS 0 10 0.5
.backanno
.end
